US07728030B2
(2S,3R)-3-Hydroxy-4-phenylbutan-2-aminium chloride (72b)
Hydrochloric acid (5 to 6 M in isopropanol, 4 mL) was added to a solution of tert-butyl (2S,3R)-3-hydroxy-4-phenylbutan-2-ylcarbamate (640 mg, 2.41 mmol) in ethyl acetate (4 mL). The mixture was stirred at 50° C. for 2.5 h and then concentrated. The solid was dissolved in warm ethanol (4-5 mL). Diethyl ether (ca 15 mL) was added under stirring to give the subtitle compound as a light lilic precipitate (290 mg, 60%).

reactant | Hydrochloric acid | 5 to 6 M, 4 mL | Cl | ClH
reactant | tert-butyl (2S,3R)-3-hydroxy-4-phenylbutan-2-ylcarbamate | 2.41 mmol, 640 mg | O[C@@H]([C@H](C)NC(OC(C)(C)C)=O)CC1=CC=CC=C1 | C15H23NO3
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
product | (2S,3R)-3-Hydroxy-4-phenylbutan-2-aminium chloride | [Cl-].O[C@@H]([C@H](C)[NH3+])CC1=CC=CC=C1 | InChI=1S/C10H15NO.ClH/c1-8(11)10(12)7-9-5-3-2-4-6-9;/h2-6,8,10,12H,7,11H2,1H3;1H/t8-,10+;/m0./s1
